US04092150
To a stirred solution of 0.9 gram of sodium methoxide in 100 ml of methanol was added, in one portion, 4.0 grams of 4-chloro-6-cyclopropylamino-2-isopropylamino-5-pyrimidinecarbonitrile. The reaction mixture was then heated under reflux for 3 hours. The methanol was removed by evaporation under reduced pressure to give a residue. The residue was washed with water, and the solid was collected by filtration to yield 3.5 grams of 6-cyclopropylamino-2-isopropylamino-4-methoxy-5-pyrimidinecarbonitrile; mp, 142°-147°.

reactant | sodium methoxide | 0.9 gram | C[O-].[Na+]
reactant | 4-chloro-6-cyclopropylamino-2-isopropylamino-5-pyrimidinecarbonitrile | 4.0 grams | ClC1=NC(=NC(=C1C#N)NC1CC1)NC(C)C | C11H14ClN5
solvent | methanol | 100 ml | CO | CH4O
product | 6-cyclopropylamino-2-isopropylamino-4-methoxy-5-pyrimidinecarbonitrile | 3.5 grams | C1(CC1)NC1=C(C(=NC(=N1)NC(C)C)OC)C#N | C12H17N5O
